Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[cH:3][cH:4][c:5]2[cH:6][c:7]([CH:8]([O:12][CH2:13][CH3:14])[O:9][CH2:10][CH3:11])[o:15][c:16]2[cH:17]1)=[O:18].[NH2:20][C@H:21]1[CH2:22][N:23]2[CH2:24][CH2:25][CH:26]1[CH2:27][CH2:28]2>>[C:1]([c:2]1[cH:3][cH:4][c:5]2[cH:6][c:7]([CH:8]([O:9][CH2:10][CH3:11])[O:12][CH2:13][CH3:14])[o:15][c:16]2[cH:17]1)(=[O:18])[NH:20][C@H:21]1[CH2:22][N:23]2[CH2:24][CH2:25][CH:26]1[CH2:27][CH2:28]2,[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5]2[cH:6][c:7]([CH:8]([O:9][CH2:10][CH3:11])[O:12][CH2:13][CH3:14])[o:15][c:16]2[cH:17]1)=[O:18].[NH2:20][C@H:21]1[CH2:22][N:23]2[CH2:24][CH2:25][CH:26]1[CH2:27][CH2:28]2.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5]2[cH:6][c:7]([CH:8]([O:9][CH2:10][CH3:11])[O:12][CH2:13][CH3:14])[o:15][c:16]2[cH:17]1)(=[O:18])[NH:20][C@H:21]1[CH2:22][N:23]2[CH2:24][CH2:25][CH:26]1[CH2:27][CH2:28]2,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (20, 1), ([1, 18], 18), (303, 20.1), ([20.1, 20], 20), (18, [18, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([S:7]([NH:8][c:9]2[c:10]([CH3:11])[cH:12][cH:13][c:14]([C:15](=[O:16])[N:17]3[CH2:18][CH2:19][CH:20]([c:21]4[cH:22][cH:23][c:24]([C:25]#[N:26])[cH:27][cH:28]4)[CH2:29][CH2:30]3)[cH:31]2)(=[O:32])=[O:33])[cH:34]1)=[O:35].[CH3:36][NH:37][CH3:38]>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([S:7]([NH:8][c:9]2[c:10]([CH3:11])[cH:12][cH:13][c:14]([C:15](=[O:16])[N:17]3[CH2:18][CH2:19][CH:20]([c:21]4[cH:22][cH:23][c:24]([C:25]#[N:26])[cH:27][cH:28]4)[CH2:29][CH2:30]3)[cH:31]2)(=[O:32])=[O:33])[cH:34]1)(=[O:35])[N:37]([CH3:36])[CH3:38],[OH:101][C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([S:7]([NH:8][c:9]2[c:10]([CH3:11])[cH:12][cH:13][c:14]([C:15](=[O:16])[N:17]3[CH2:18][CH2:19][CH:20]([c:21]4[cH:22][cH:23][c:24]([C:25]#[N:26])[cH:27][cH:28]4)[CH2:29][CH2:30]3)[cH:31]2)(=[O:32])=[O:33])[cH:34]1)=[O:35].[CH3:36][NH:37][CH3:38].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([S:7]([NH:8][c:9]2[c:10]([CH3:11])[cH:12][cH:13][c:14]([C:15](=[O:16])[N:17]3[CH2:18][CH2:19][CH:20]([c:21]4[cH:22][cH:23][c:24]([C:25]#[N:26])[cH:27][cH:28]4)[CH2:29][CH2:30]3)[cH:31]2)(=[O:32])=[O:33])[cH:34]1)(=[O:35])[N:37]([CH3:36])[CH3:38],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (37, 1), ([1, 35], 35), (303, 37.1), ([37.1, 37], 37), (35, [35, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH2:2][CH:3]=[CH2:4].[CH3:5][S:6][c:7]1[n:8][cH:9][c:10]2[c:11]([n:12]1)[nH:13][c:14](=[O:15])[c:16](-[c:17]1[cH:18][cH:19][c:20](-[c:21]3[cH:22][n:23][cH:24][c:25]([CH3:26])[n:27]3)[cH:28][c:29]1[Cl:30])[cH:31]2>>[CH2:1]([CH2:2][CH:3]=[CH2:4])[n:13]1[c:11]2[c:10]([cH:9][n:8][c:7]([S:6][CH3:5])[n:12]2)[cH:31][c:16](-[c:17]2[cH:18][cH:19][c:20](-[c:21]3[cH:22][n:23][cH:24][c:25]([CH3:26])[n:27]3)[cH:28][c:29]2[Cl:30])[c:14]1=[O:15],[CH3:5][S:6][c:7]1[n:8][cH:9][c:10]2[c:11]([n:12]1)[nH:13][c:14](=[O:15])[c:16](-[c:17]1[cH:18][cH:19][c:20](-[c:21]3[cH:22][n:23][cH:24][c:25]([CH3:26])[n:27]3)[cH:28][c:29]1[Cl:30])[cH:31]2.[Br:101][CH2:1][CH2:2][CH:3]=[CH2:4]>>[CH2:1]([CH2:2][CH:3]=[CH2:4])[n:13]1[c:11]2[c:10]([cH:9][n:8][c:7]([S:6][CH3:5])[n:12]2)[cH:31][c:16](-[c:17]2[cH:18][cH:19][c:20](-[c:21]3[cH:22][n:23][cH:24][c:25]([CH3:26])[n:27]3)[cH:28][c:29]2[Cl:30])[c:14]1=[O:15],SN2,"[(13, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[n:4][cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][n:12]1.[CH3:13][C@:14]1([c:15]2[cH:16][c:17]([NH2:18])[cH:19][cH:20][c:21]2[F:22])[N:23]=[C:24]([NH2:25])[O:26][CH2:27][C:28]1([F:29])[F:30]>>[C:1](=[O:2])([c:3]1[n:4][cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][n:12]1)[NH:18][c:17]1[cH:16][c:15]([C@@:14]2([CH3:13])[N:23]=[C:24]([NH2:25])[O:26][CH2:27][C:28]2([F:29])[F:30])[c:21]([F:22])[cH:20][cH:19]1,[CH3:13][C@:14]1([c:15]2[cH:16][c:17]([NH2:18])[cH:19][cH:20][c:21]2[F:22])[N:23]=[C:24]([NH2:25])[O:26][CH2:27][C:28]1([F:29])[F:30].[OH:101][C:1](=[O:2])[c:3]1[n:4][cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][n:12]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[n:4][cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][n:12]1)[NH:18][c:17]1[cH:16][c:15]([C@@:14]2([CH3:13])[N:23]=[C:24]([NH2:25])[O:26][CH2:27][C:28]2([F:29])[F:30])[c:21]([F:22])[cH:20][cH:19]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (18, 1), ([1, 2], 2), (303, 18.1), ([18.1, 18], 18), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
